US04416683
To a stirred solution of 6.8 g of aminomethyl-(1,1-dimethylethyl)ketone, as the hydrochloride salt, in 30 ml of water were added portionwise 5.0 g of cyanamide. The pH of the reaction mixture was adjusted to 6.0 with 1N sodium hydroxide, and then the mixture was heated to 90° C. and stirred for fifty-five minutes. The reaction mixture was next cooled to room temperature, diluted with 100 ml. of water, and extracted several times with diethyl ether. The aqueous layer was made alkaline with ammonium hydroxide, and again extracted several times with diethylether. The extracts from the alkaline mixture were combined and concentrated to dryness to provide a solid residue. The residue thus obtained was dissolved in 20 ml of 6N hydrochloric acid and heated at reflux for sixteen hours. The reaction mixture was cooled, concentrated to an oil by evaporation of the solvent, and the oil was dissolved in water and made alkaline to pH 8.5. The alkaline mixture was extracted several times with diethyl ether. The etheral extracts were combined, washed with water, dried, and the solvent was removed by evaporation under reduced pressure to provide 0.5 g of 5-(1,1-dimethylethyl)-2-aminoimidazole.

reactant | aminomethyl-(1,1-dimethylethyl)ketone | 6.8 g | NCC(=O)C(C)(C)C | C6H13NO
reactant | cyanamide | 5.0 g | N#CN | CH2N2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 5-(1,1-dimethylethyl)-2-aminoimidazole | 0.5 g | CC(C)(C)C1=CN=C(N1)N | C7H13N3
